US07419984B2
6-(5-Chloro-2-methoxy-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
To a mixture of 6-chloro-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine (0.5 g, 1.96 mmol), 5-chloro-2-methoxy-phenyl boronic acid (0.73 g, 3.92 mmol), palladium (II) acetate (0.066 g, 0.294 mmol), and triphenylphosphine (0.154 g, 0.588 mmol) was added a solution of sodium carbonate (0.63 g, 5.88 mmol) dissolved in water (6 ml) followed by glyme (20 ml). The reaction mixture was stirred under an argon atmosphere at 90-95° C. for 18 hours. After cooling to room temperature, the mixture was filtered through a pad of celite under suction and concentrated. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:3) to provide the title compound (0.350 g, 49% yield) as a white powder. 1H NMR (CDCl3) δ 3.86 (s, 3H, CH3), 4.90 (s, 2H, NH2), 6.58 (s, 1H, NH), 6.71 (s, 1H, Ar), 6.91 (d, 1H, J=8.8 Hz, Ar), 7.32-7.41 (m, 5H, Ar), 7.87 (d, 1H, J=2.7 Hz, Ar).

reactant | 6-chloro-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 1.96 mmol, 0.5 g | ClC1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl | C10H8Cl2N4
reactant | 5-chloro-2-methoxy-phenyl boronic acid | 3.92 mmol, 0.73 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | triphenylphosphine | 0.588 mmol, 0.154 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 5.88 mmol, 0.63 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 6 ml | O | H2O
catalyst | palladium (II) acetate | 0.294 mmol, 0.066 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | glyme | 20 ml | C(OC)COC | C4H10O2
product | 6-(5-Chloro-2-methoxy-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 0.350 g, 49% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)OC | C17H14Cl2N4O
